### PR TITLE
[Merged by Bors] - feat port data.vector.mem

### PR DESCRIPTION
**Pull request by Shreyas4991**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Vector/Mem.lean [hunk 1]
```diff
@@ -0,0 +1,93 @@
...
+! leanprover-community/mathlib commit 509de852e1de55e1efa8eacfa11df0823f26f226
+! Please do not edit these lines, except to modify the commit id
+! if you have ported upstream changes.
+-/
+import Mathlib.Data.Vector.Basic
+
+/-!
+# Theorems about membership of elements in vectors
+
+This file contains theorems for membership in a `v.to_list` for a vector `v`.
```
Comment (jcommelin) [inline Mathlib/Data/Vector/Mem.lean:16]:
```suggestion
This file contains theorems for membership in a `v.toList` for a vector `v`.
```

File: Mathlib/Data/Vector/Mem.lean [hunk 2]
```diff
@@ -0,0 +1,93 @@
...
+  and make more general statements about `head` and `tail`.
+-/
+
+
+namespace Vector
+
+variable {α β : Type _} {n : ℕ} (a a' : α)
+
+@[simp]
+theorem nth_mem (i : Fin n) (v : Vector α n) : v.get i ∈ v.toList := by
```
Comment (jcommelin) [inline Mathlib/Data/Vector/Mem.lean:29]:
```suggestion
theorem get_mem (i : Fin n) (v : Vector α n) : v.get i ∈ v.toList := by
```

File: Mathlib/Data/Vector/Mem.lean [hunk 3]
```diff
@@ -0,0 +1,93 @@
...
+  rw [get_eq_get]
+  exact List.get_mem _ _ _
+#align vector.nth_mem Vector.nth_mem
+
+theorem mem_iff_nth (v : Vector α n) : a ∈ v.toList ↔ ∃ i, v.get i = a := by
```
Comment (jcommelin) [inline Mathlib/Data/Vector/Mem.lean:34]:
```suggestion
theorem mem_iff_get (v : Vector α n) : a ∈ v.toList ↔ ∃ i, v.get i = a := by
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
